* Test all SupOpAmps
.include SupOpAmp.cir

Vcc vcc 0 15
Vee vee 0 -15
Vin in 0 1m

X0 in 0 out0 vcc vee 0 SupOpAmp
X1 in 0 out1 vcc vee 0 SupOpAmp_LM741
X2 in 0 out2 vcc vee 0 SupOpAmp_TL081
X3 in 0 out3 vcc vee 0 SupOpAmp_TL071
X4 in 0 out4 vcc vee 0 SupOpAmp_LM358
X5 in 0 out5 vcc vee 0 SupOpAmp_NE5532
X6 in 0 out6 vcc vee 0 SupOpAmp_MCP601
X7 in 0 out7 vcc vee 0 SupOpAmp_OP07
X8 in 0 out8 vcc vee 0 SupOpAmp_OP27
X9 in 0 out9 vcc vee 0 SupOpAmp_AD8628
X10 in 0 out10 vcc vee 0 SupOpAmp_LT1028
X11 in 0 out11 vcc vee 0 SupOpAmp_AD797
X12 in 0 out12 vcc vee 0 SupOpAmp_OPA2134
X13 in 0 out13 vcc vee 0 SupOpAmp_AD8009
X14 in 0 out14 vcc vee 0 SupOpAmp_LMH6702
X15 in 0 out15 vcc vee 0 SupOpAmp_THS3001
X16 in 0 out16 vcc vee 0 SupOpAmp_L272
X17 in 0 out17 vcc vee 0 SupOpAmp_OPA541
X18 in 0 out18 vcc vee 0 SupOpAmp_LM3886
X19 in 0 out19 vcc vee 0 SupOpAmp_LT1210

.control
op
print v(out0) v(out1) v(out2) v(out3) v(out4) v(out5) v(out6) v(out7) v(out8) v(out9) v(out10) v(out11) v(out12) v(out13) v(out14) v(out15) v(out16) v(out17) v(out18) v(out19)
.endc
.end
